US06498165B1
2-[(S)-1-(3-(indol-5-ylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine (19.2 mg) was dissolved in CH2Cl2 (2 mL), then triethylamine (37 μL) was added followed by 5-aminoindole (19.0 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (27.3 mg) and 4-dimethylaminopyridine (˜1 mg). The mixture was stirred at room temperature for 30 min then eluted on silica gel column (2-4%MeOH in CH2Cl2) then on one 250 μm silica gel plate (1:1 hexanes:acetone) to yield 3.7 mg of the title compound. 1H NMR (500 MHz, CDCl3,partial): δ 8.50 (br s, 1H); 8.40 (d, J=5.5 Hz, 1H); 8.22 (br s, 1H); 8.03 (s, 1H); 7.96 (br s, 1H); 7.87 (s, 1H); 7.64 (d, J=7.8 Hz, 1H); 7.51 (t, J=7.8 Hz, 1H); 7.25 (m, 1H); 6.81 (d, J=5.5 Hz, 1H); 6.56 (br s, 1H); 5.89 (br s, 1H); 5.29 (br s, 1H); 1.69 (d, J=6.9 Hz, 3H). Mass Spectrum (ESI): m/e 474.3 (M+1).

reactant | 2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 19.2 mg | C(=O)(O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C20H17N5O2
reactant | triethylamine | 37 μL | C(C)N(CC)CC | C6H15N
reactant | 5-aminoindole | 19.0 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 27.3 mg | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | ˜1 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[(S)-1-(3-(indol-5-ylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 3.7 mg | N1C=CC2=CC(=CC=C12)NC(=O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C28H23N7O
